US07348359B2
A mixture of 300 mg (1.08 mmol) of 3,5-di-tert-butyl-2-ethoxy phenylboronic acid, 498 mg (1.62 mmol) of 2-acetyl-7-trifluoromethanesulfonate benzo[b]furan and 62 mg (0.05 mmol) of Pd(PPh3)4, 1 mL of 2N aqueous sodium carbonate in 9 mL of toluene and 4 mL ethanol was heated to reflux. After complexion (TLC), water was added and the solution was extracted with ethyl acetate. The organic layer is dried over MgSO4 and after evaporation of the solvents, the crude oil was purified over a short silica plug (eluent: 10/90=ethyl acetate/hexane) to afford 395 mg (1.00 mmol, yield: 93%/boronic acid) of 2-acetyl-7-(3,5-di-tert-butyl-2-ethoxyphenyl)-benzo[b]furan as a clear yellow pasty solid. 1H NMR (CDCl3), δ: 7.72 (d, J=7.4 Hz, 1H), 7.68 (d, J=7.8 Hz, 1H), 7.56 (s, 1H), 7.42 (s, 2H), 7.38 (d, J=7.6 Hz, 1H), 3.35 (dd, J=13.9, 7.0 Hz, 2H), 2.58 (s, 3H), 1.48 (s, 9H), 1.36 (s, 9H), 0.86 (t, J=7.0 Hz, 3H).

reactant | 3,5-di-tert-butyl-2-ethoxy phenylboronic acid | 1.08 mmol, 300 mg | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)B(O)O)OCC | C16H27BO3
reactant | sodium carbonate | 2N, 1 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | ethanol | 4 mL | C(C)O | C2H6O
solvent | toluene | 9 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.05 mmol, 62 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-acetyl-7-(3,5-di-tert-butyl-2-ethoxyphenyl)-benzo[b]furan | 1.00 mmol, 395 mg, yield: 93% | C(C)(=O)C1=CC2=C(O1)C(=CC=C2)C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)OCC | C26H32O3
